US05726205
trans-O-Acetyl-4-(4-diethylaminomethylphenyl)-cyclohexanol
A solution of 1 g (3.75 mmol) of trans-O-acetyl-4-(4-chloromethylphenyl)-cyclohexanol in 10 ml of dimethylformamide is mixed with 0.52 g (3.75 mmol) of potassium carbonate and 0.27 g (3.75 mmol) of diethylamine. This mixture is heated to 50° C. for 6 hours with stirring, then water is added and the mixture is extracted with methylene chloride. The organic phase is dried, evaporated down in vacuo and the residue remaining is purified by column chromatography (aluminium oxide basic, activity stage III, ICN; petroleum ether/ethyl acetate=15:1). Colourless oil.

reactant | trans-O-acetyl-4-(4-chloromethylphenyl)-cyclohexanol | 3.75 mmol, 1 g | C(C)(=O)O[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CCl | C15H19ClO2
reactant | potassium carbonate | 3.75 mmol, 0.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethylamine | 3.75 mmol, 0.27 g | C(C)NCC | C4H11N
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | trans-O-Acetyl-4-(4-diethylaminomethylphenyl)-cyclohexanol | C(C)(=O)O[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CN(CC)CC | C19H29NO2
